US03989841
α-Methylfluorene-2-acetic acid
A solution of α-methylenefluorene-2-acetic acid (2.6g.) in dioxane (50ml.) is hydrogenated in the presence of 5% palladium on charcoal (800mg.). The mixture is filtered and the filtrate evaporated to dryness. The residue is sublimed to afford the title compound (2.6g.). The analytical sample is prepared by recrystallization from aqueous methanol, mp 180°-182°.

reactant | α-methylenefluorene-2-acetic acid | 2.6g | C=C(C(=O)O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C16H12O2
solvent | dioxane | 50ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 800mg | [Pd] | Pd
product | α-Methylfluorene-2-acetic acid | 2.6g | CC(C(=O)O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C16H14O2
